US08389550B2
N-Isopropyl-6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 1.25 mL, 2.0 mmol) was added dropwise (exothermic) to a solution of isopropylamine (210 μL, 2.0 mmol) in dioxane (6 mL) and the resulting mixture was stirred at room temperature for 1 h. Then 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester (200 mg, 0.62 mmol) was added. The resulting mixture was then heated at 90° C. for 2 h and then cooled to room temperature and then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:4) afforded the title compound (170 mg, 78%) which was obtained as a white solid after trituration from diisopropylether/ethyl acetate. MS: m/e=348.3 [M+H]+.

reactant | trimethylaluminium | 2.0 mmol, 2 M, 1.25 mL | C[Al](C)C
reactant | isopropylamine | 2.0 mmol, 210 μL | C(C)(C)N | C3H9N
reactant | 6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester | 0.62 mmol, 200 mg | COC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C19H16N2O3
reactant | water | O | H2O
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | N-Isopropyl-6-[(E)-2-(5-methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinamide | 170 mg, 78% | C(C)(C)NC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C21H21N3O2
